US08293715B2
Synthesis of 3-(2-hydroxypropan-2-yl)phenol
3′-Hydroxyacetophenone (500 mg) was dissolved in tetrahydrofuran (10 ml), and the solution was slowly added dropwise with a 3 M solution of methylmagnesium bromide in diethyl ether (3.7 ml) under ice cooling. The mixture was stirred at the same temperature for 2 hours, and then added with saturated aqueous ammonium chloride, the mixture was extracted with ethyl acetate, and the organic layer was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1 to 1:1) to obtain the title compound (224.3 mg).

reactant | 3′-Hydroxyacetophenone | 500 mg | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 3.7 ml | C(C)OCC | C4H10O
product | 3-(2-hydroxypropan-2-yl)phenol | 224.3 mg | OC(C)(C)C=1C=C(C=CC1)O | C9H12O2
